US04443606
2-(5-Chloro-2-benzothiazolylthio)-N-hydroxy-ethanimidamide
14.4 g (0.6 m) (5-chloro-2-benzothiazolylthio)acetonitrile, prepared according to Example 1, 4.17 g (0.06 m) hydroxyamine hydrochloride and 4.14 g (0.03 m) potassium carbonate are dissolved in a mixture of 180 ml ethanol and 2 ml water. The mixture is heated overnight and then cooled. The solid which is collected is washed with water. The crude material is recrystallized from ethanol. The recrystallized product weighs 5.6 g (34% yield) and melts at 155°-7° C.

reactant | (5-chloro-2-benzothiazolylthio)acetonitrile | 14.4 g | ClC=1C=CC2=C(N=C(S2)SCC#N)C1 | C9H5ClN2S2
reactant | hydroxyamine hydrochloride | 4.17 g | Cl.ON
reactant | potassium carbonate | 4.14 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 180 ml | C(C)O | C2H6O
solvent | water | 2 ml | O | H2O
product | 2-(5-Chloro-2-benzothiazolylthio)-N-hydroxy-ethanimidamide | 34% yield | ClC=1C=CC2=C(N=C(S2)SCC(NO)=N)C1 | C9H8ClN3OS2
